US04537897
A mixture of 131 g of tert.-butyl (1R,cis) 2,2-dimethyl-3-ethynyl-cyclopropane-carboxylate, 32 g of paraformaldehyde, 111 ml of diisopropylamine, 31 g of copper bromide and 1,300 ml of dioxane was heated at 80° C. for 161/2 hours and was cooled to 20° C. and diluted with water. The mixture was adjusted to a pH of 1 with aqueous N hydrochloric acid and was extracted with methylene chloride. The organic phase was evaporated to dryness under reduced pressure and the residue was chromatographed over silica gel. Elution with a 1-1 hexane-methylene chloride mixture yielded 44 g of tert.-butyl (1R,cis) 2,2-dimethyl-3-(1,2-propadienyl)-cyclopropane-carboxylate.

reactant | tert.-butyl (1R,cis) 2,2-dimethyl-3-ethynyl-cyclopropane-carboxylate | 131 g | CC1([C@@H]([C@@H]1C#C)C(=O)OC(C)(C)C)C | C12H18O2
reactant | paraformaldehyde | 32 g | C=O | CH2O
reactant | diisopropylamine | 111 ml | C(C)(C)NC(C)C | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
catalyst | copper bromide | 31 g | [Cu](Br)Br
solvent | dioxane | 1,300 ml | O1CCOCC1 | C4H8O2
product | tert.-butyl (1R,cis) 2,2-dimethyl-3-(1,2-propadienyl)-cyclopropane-carboxylate | 44 g | CC1([C@@H]([C@@H]1C=C=C)C(=O)OC(C)(C)C)C | C13H20O2
